### PR TITLE
Term algebra and congruence

### PR DESCRIPTION
**Pull request by andreaslyn**
Here I have implemented term algebra and congruence. I have moreover fixed the issue with reserving algebra notations. 

The primary work is in Congruence.v and TermAlgebra.v. Most of the changed files are related to switch of algebra notations "u ^^ A" to "u .# A" and "A & P" to "A && P".

### CODE REVIEW

File: theories/Algebra/Universal/TermAlgebra.v [hunk 1]
```diff
@@ -0,0 +1,414 @@
...
+      is a left adjoint functor.
+      Notice [isequiv_precomp_var_term_algebra] above. *)
+
+  Theorem ump_term_algebra
+    : Homomorphism (TermAlgebra C) A <~> (forall s, C s -> A s).
+  Proof.
+    exact (Build_Equiv _ _ precomp_var_term_algebra _).
+  Defined.
+
+End ump_term_algebra.
```
Comment (Alizter) [inline theories/Algebra/Universal/TermAlgebra.v:414]:
```suggestion
End ump_term_algebra.

```

**Review by Alizter — APPROVED** [review]
LGTM

**Comment by Alizter** [comment]
Will this new UA stuff subsume the old? Are we moving away from the hottclasses library?

**Review by mikeshulman — APPROVED** [review]

**Comment by andreaslyn** [comment]
The new UA stuff will subsume the old up to propositional equality. At some point we can discuss whether we want to keep the old.
